US04244947
Aqueous sodium hydroxide (1 N, 15 ml, 15 mmoles) was added to an ice-cold solution of Z-Tyr(But)-OMe (3.85 g, 10 mmoles) in methanol (20 ml) and the mixture was stirred at 0° to 50° C. for one hr. After completion of the reaction, the solution was acidified with 10% aqueous citric acid, diluted with water (100 ml) and extracted with ethyl acetate. The organic layer was washed several times with water and dried over anhydrous sodium sulfate. Evaporation of the solvent gives Z-Tyr(But)-OH in quantitative yield, which was used as such in the next step. The latter acid and 1-hydroxybenzotriazole (1.62 g, 12 mmoles) were dissolved in dry, distilled dimethylformamide (30 ml), the solution was cooled to 0° C. and dicyclohexylcarbodiimide (2.48 g, 12 mmoles) was added. The mixture was stirred 1 hr at 0° C. and 1 hr at room temperature and a solution of H-Phe-OMe.HCl (2.58 g, 12 mmoles) in dimethylformamide (35 ml) containing N-ethylmorpholine (1.6 ml, 13 mmoles) was added at 0° C. The mixture was stirred at room temperature overnight. After filtering, the filtrate was evaporated and the residue was dissolved in ethyl acetate. The solution was washed with 5% aqueous citric acid, water, saturated NaHCO3 solution and water, dried over sodium sulfate and evaporated. The residue was crystallized twice from methanol-isopropyl ether giving 4.3 g of the title compound: mp 106°-107° C., [α]D -36.40 (1% in dimethylformamide), nmr (CDCl3)δ 1.25(s), 3.60(s) and 5.10(s), and Anal. Calc'd. for C31H36N2O6 : C, 69.91%; H, 6.81%; N, 5.26% and Found: C, 69.63%; H, 6.85%; N, 5.41%.

reactant | sodium hydroxide | 15 mmoles, 1 N, 15 ml | [OH-].[Na+]
reactant | Z-Tyr(But)-OMe | 10 mmoles, 3.85 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C22H27NO5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | Z-Tyr(But)-OH | quantitative yield | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H25NO5
